US04831151
1.61 g (10 mmol) of p-chlorobenzyl chloride are added to a solution of 1.99 g (10 mmol) of 1-(benzylidene)amino-2-ethylimidazole in 10 ml of acetonitrile. After heating under reflux for 24 hours the precipitated product is filtered off and recrystallized from ethanol/ether. There is obtained 1-(benzylideneamino)-3-(p-chlorobenzyl)-2-ethylimidazolium chloride of melting point >200°.

reactant | p-chlorobenzyl chloride | 10 mmol, 1.61 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | 1-(benzylidene)amino-2-ethylimidazole | 10 mmol, 1.99 g | C(C1=CC=CC=C1)=NN1C(=NC=C1)CC | C12H13N3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(benzylideneamino)-3-(p-chlorobenzyl)-2-ethylimidazolium chloride | [Cl-].C(C1=CC=CC=C1)=N[N+]1=C(N(C=C1)CC1=CC=C(C=C1)Cl)CC | InChI=1S/C19H19ClN3.ClH/c1-2-19-22(15-17-8-10-18(20)11-9-17)12-13-23(19)21-14-16-6-4-3-5-7-16;/h3-14H,2,15H2,1H3;1H/q+1;/p-1
